US04335127
A mixture of 5.8 parts of 6-chloro-3-(2-chloroethyl)-3,4-dihydro-4-phenyl-2(1H)-quinazolinone, 7.4 parts of (4-fluorophenyl) (4-piperidinyl)methanone and 56 parts of ethanol is stirred and refluxed overnight. The reaction mixture is evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue solidifies on triturating in 2,2'-oxybispropane. The product is filtered off and dried, yielding 5 parts (57%) of 6-chloro-3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-3,4-dihydro-4-phenyl-2(1H)-quinazolinone; mp. 196° C.

reactant | 6-chloro-3-(2-chloroethyl)-3,4-dihydro-4-phenyl-2(1H)-quinazolinone | ClC=1C=C2C(N(C(NC2=CC1)=O)CCCl)C1=CC=CC=C1 | C16H14Cl2N2O
reactant | (4-fluorophenyl) (4-piperidinyl)methanone | FC1=CC=C(C=C1)C(=O)C1CCNCC1 | C12H14FNO
solvent | ethanol | C(C)O | C2H6O
product | 6-chloro-3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-3,4-dihydro-4-phenyl-2(1H)-quinazolinone | 57% | ClC=1C=C2C(N(C(NC2=CC1)=O)CCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)C1=CC=CC=C1 | C28H27ClFN3O2
